US04029674
2-Allyl-1,3-cyclohexanedione
Allyl bromide (195 g., 1.62 mol.) was added over a 15 minute period to a stirred ice-cold mixture of cyclohexanedione (165 g., 1.47 mol.), copper-bronze (4.5 g.), and 330 ml. of 20% by weight aqueous potassium hydroxide. After 6 hours, the reaction was mixed with 1500 ml. of a 5% by weight aqueous sodium hydroxide solution and 1000 ml. of ethyl ether, filtered and the separated water layer acidified with 4 N aqueous hydrochloric acid to pH 1. A brown solid (188 g.) formed upon refrigeration at 0° C. The solid was taken up in ethyl acetate and the solution was washed with water (3× 150 ml.), dried (MgSO4), treated with charcoal, and condensed until turbid. Upon cooling, 126 g. (57%) of 2-allyl-1,3-cyclohexanedione was collected, m.p. 125°-127° C.

reactant | Allyl bromide | 1.62 mol, 195 g | C(C=C)Br | C3H5Br
reactant | cyclohexanedione | 1.47 mol, 165 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Allyl-1,3-cyclohexanedione | C(C=C)C1C(CCCC1=O)=O | C9H12O2
